US06133319
Preparation of N-t-Butyl-N'-(2-hydroxy-4-nitrophenyl)urea
To a solution of t-butyl isocyanate (400 mg, 4.04 mmol) in toluene, the 2-amino-5-nitrophenol (622 mg, 4.04 mmol) was added. The reaction mixture was stirred at 80° C. for 24 hours, then cooled to room temperature. The product was purified by precipitation from toluene and filtering (864 mg, 85%). m.p: 99.0-101.1° C.; EI-MS m/z 254 (M+H)+.

reactant | t-butyl isocyanate | 4.04 mmol, 400 mg | C(C)(C)(C)N=C=O | C5H9NO
reactant | 2-amino-5-nitrophenol | 4.04 mmol, 622 mg | NC1=C(C=C(C=C1)[N+](=O)[O-])O | C6H6N2O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-t-Butyl-N'-(2-hydroxy-4-nitrophenyl)urea | C(C)(C)(C)NC(=O)NC1=C(C=C(C=C1)[N+](=O)[O-])O | C11H15N3O4
